US04031088
A mixture of 136.5 g. of methyl 3'-carboxy-2',4',6'-triiodo-5'-(N-methylacetamido)azelanilate and 180 ml. of water was treated with 10% aqueous sodium hydroxide (about 140 ml.), added dropwise until solution was complete. The mixture was heated on a steam bath for ten minutes, 18 ml. more of 10% sodium hydroxide was added, and the mixture heated one hour longer. The reaction mixture was cooled, acidified with 3% hydrochloric acid, and the solid product collected, washed with water, dried and recrystallized from acetic acid to give 3'-carboxy-2',4',6'-triiodo-5'-(N-methylacetamido)azelanilic acid as a colorless solid, m.p. 205°-208° C.

reactant | methyl 3'-carboxy-2',4',6'-triiodo-5'-(N-methylacetamido)azelanilate | C(=O)(O)C=1C(=C(NC(CCCCCCCC(=O)OC)=O)C(=C(C1I)N(C(C)=O)C)I)I | C20H25I3N2O6
reactant | sodium hydroxide | about 140 ml | [OH-].[Na+]
reactant | hydrochloric acid | Cl | ClH
solvent | water | O | H2O
product | 3'-carboxy-2',4',6'-triiodo-5'-(N-methylacetamido)azelanilic acid | C(=O)(O)C=1C(=C(NC(CCCCCCCC(=O)O)=O)C(=C(C1I)N(C(C)=O)C)I)I | C19H23I3N2O6
